US05053427
b) Trans-5-Cyano-1,1-dimethyl-3-amino-indan-2-ol
A solution of trans-5-cyano-1,1-dimethyl-3-azido-indan-2-ol (0.93g), triethylamine (1.2 ml) and 1,3-propanedithiol (0.9 ml) in dry methanol (20 ml) was stirred at room temperature for 48h. After filtration, the solution was evaporated in vacuo to give the title compound (0.79g) as a gum.

reactant | trans-5-cyano-1,1-dimethyl-3-azido-indan-2-ol | 0.93g | C(#N)C=1C=C2[C@H]([C@@H](C(C2=CC1)(C)C)O)N=[N+]=[N-] | C12H12N4O
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | 1,3-propanedithiol | 0.9 ml | C(CCS)S | C3H8S2
solvent | methanol | 20 ml | CO | CH4O
product | Trans-5-Cyano-1,1-dimethyl-3-amino-indan-2-ol | 0.79g | C(#N)C=1C=C2[C@H]([C@@H](C(C2=CC1)(C)C)O)N | C12H14N2O
